US06197975B1
Step 1J Morpholine-4-carboxylic acid 2-(3,5-dimethylphenyl)-3-[2-[4-(4-hydroxy-phenyl)butylamino]ethyl]-1H-indol-5yl ester
To a stirred solution of morpholine-4-carboxylic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxy-phenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester (20 mg in a mixture of 2 mL tetrahydrofuran and 0.5 mL methanol) was added 16.8 mg of 10% palladium on carbon catalyst followed by acetic acid (0.010 mL of a 30% solution in water). The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 1.5 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (methylene chloride:methanol:ammonium hydroxide, 90:7:1) gave the title compound (12 mg). m/e=542 (M+H)

reactant | morpholine-4-carboxylic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxy-phenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester | C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)OC(=O)N1CCOCC1)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C48H51N3O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | palladium on carbon | 16.8 mg | [Pd] | Pd
solvent | water | O | H2O
product | Morpholine-4-carboxylic acid 2-(3,5-dimethylphenyl)-3-[2-[4-(4-hydroxy-phenyl)butylamino]ethyl]-1H-indol-5yl ester | 12 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=C(C=C1)O)OC(=O)N1CCOCC1 | C33H39N3O4
